US08859773B2
Step 2: 1-ethyl 6-methyl 3-hydroxy-1H-indazole-1,6-dicarboxylate
Methyl 3-hydroxy-1H-indazole-6-carboxylate (1.6 g, 8.3 mmol) was suspended in pyridine (10 mL). Ethyl chloroformate (1.0 mL, 10 mmol) was added slowly and the reaction was allowed to stir at room temperature for 2 hours. The reaction was poured into water (65 mL) and cooled in a refrigerator for 4 hours. The resulting brown precipitate was collected by filtration, rinsed with water, and dried under vacuum to give the title compound (1.35 g, 61%) as a beige solid. +ESI (M+H) 265.0; 1H NMR (400 MHz, CDCl3, δ): 8.80 (d, J=6.0 Hz, 1H), 8.01 (dd, J=8.2, 1.2 Hz, 1H), 7.88 (d, J=8.6 Hz, 1H), 4.60 (q, J=7.0 Hz, 2H), 3.98 (s, 3H), 1.57 (t, J=7.1 Hz, 3H).

reactant | Methyl 3-hydroxy-1H-indazole-6-carboxylate | 8.3 mmol, 1.6 g | OC1=NNC2=CC(=CC=C12)C(=O)OC | C9H8N2O3
reactant | Ethyl chloroformate | 10 mmol, 1.0 mL | ClC(=O)OCC | C3H5ClO2
reactant | water | 65 mL | O | H2O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 1-ethyl 6-methyl 3-hydroxy-1H-indazole-1,6-dicarboxylate | 1.35 g, 61% | OC1=NN(C2=CC(=CC=C12)C(=O)OC)C(=O)OCC | C12H12N2O5
